US06043248
To (E)-4-hydroxy-3-methyl-2-pentenoic acid methyl ester (1.00 g, 6.94 mmol) in methylene chloride cooled to -15° C. in a flame dried flask is added dichlorotriphenylphosphorane (2.47 g, 7.63 mmol). The reaction is warmed to ambient temperature, quenched by addition of ice (10 ml), extracted with methylene chloride (2×10 ml), washed with saline (10 ml), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 75 ml), eluting with hexane/ethyl acetate (95/5). The appropriate fractions are combined (Rf =0.55, TLC, hexane/ethyl acetate, 75/25) and concentrated in vacuo to give (E)-4-chloro-3-methyl-2-pentenoic acid methyl ester. 4-Amino-6-chloro-2-mercaptopyrimidine mesylate (0.30 g, 1.16 mmol) is dissolved in DMF (4 ml) and sodium hydride (0.06 g, 2.56 mmol) at ambient temperature followed by the addition of (E)-4-chloro-3-methyl-2-pentenoic acid methyl ester (0.19 g, 1.16 mmol). The reaction is stirred for 15 hours, quenched with excess water, extracted with ethyl acetate (3×15 ml). The extracts are combined, washed with saline (15 ml), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (85/15). The appropriate fractions are combined (Rf =0.18, TLC, hexane/ethyl acetate, 50/50) and concentrated in vacuo to give the title compound, mp 124-126° C.

reactant | (E)-4-hydroxy-3-methyl-2-pentenoic acid methyl ester | 6.94 mmol, 1.00 g | COC(\C=C(\C(C)O)/C)=O | C7H12O3
reactant | dichlorotriphenylphosphorane | 7.63 mmol, 2.47 g | ClP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15Cl2P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (E)-4-chloro-3-methyl-2-pentenoic acid methyl ester | COC(\C=C(\C(C)Cl)/C)=O | C7H11ClO2
